US05650533
Ethyl 2,4-dibromo-3-(2-methoxyethoxy)benzoate(32.2 g) was stirred in DMF (80 ml) with potassium carbonate (36 g). To the resultant suspension was added a solution of methane thiol (13 ml) in DMF (20 ml). The resultant mixture was stirred overnight at room temperature. It was then diluted with ether, and the mixture washed with water, dried (anhydrous magnesium sulphate) and filtered. The filtrate was evaporated to dryness. The residue was purified by column chromatography on silica eluting with ethyl acetate and cyclohexane (1:20) which yielded ethyl 4-bromo-3-(2-methoxyethoxy)-2-methylsulphenylbenzoate (3.5 g) as an oil which was not further characterized.

reactant | Ethyl 2,4-dibromo-3-(2-methoxyethoxy)benzoate | 32.2 g | BrC1=C(C(=O)OCC)C=CC(=C1OCCOC)Br | C12H14Br2O4
reactant | potassium carbonate | 36 g | C([O-])([O-])=O.[K+].[K+]
reactant | methane thiol | 13 ml | CS | CH4S
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | ethyl 4-bromo-3-(2-methoxyethoxy)-2-methylsulphenylbenzoate | 3.5 g | BrC1=C(C(=C(C(=O)OCC)C=C1)SC)OCCOC | C13H17BrO4S
